US04284644
5-Methylthiospiro[benzo[b]furan-2(3H), 1'-cyclopropane]-3-one (600 mg.) and m-chloroperbenzoic acid (627 mg.) were allowed to react in the same manner as Example 65. The product was recrystallized from ethyl acetate-hexane to give colorless prisms of 5-methylsulfinylspiro[benzo[b]furan-2(3H), 1'-cyclopropane]-3-one (493 mg.). m.p. 87°-90° C.

reactant | 5-Methylthiospiro[benzo[b]furan-2(3H), 1'-cyclopropane]-3-one | 600 mg | CSC1=CC2=C(OC3(CC3)C2=O)C=C1 | C11H10O2S
reactant | m-chloroperbenzoic acid | 627 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
product | 5-methylsulfinylspiro[benzo[b]furan-2(3H), 1'-cyclopropane]-3-one | 493 mg | CS(=O)C1=CC2=C(OC3(CC3)C2=O)C=C1 | C11H10O3S
